Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Omeprazole / lisinopril
 
Attending: ___.
 
Chief Complaint:
hypoxia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o ___ female with pAF (not on AC), ___ with 
daily Lasix use, ___, HTN, HL, OA, spinal stenosis with chronic 
low back pain, uterine cancer (s/p TAH-BSO ___ with lung 
oligometastasis s/p radiation, chronic home O2 2L requirement, 
who presents after a fall with headstrike, now being admitted 
for hypoxia and hypercarbia on VBG.

Today, the patient was getting up to use walker in the bathroom 
and felt as though she was spinning. She has a history of BPPV. 
She fell onto her left side and the back left side of her head 
hit the ground. No LOC. No bleeding or laceration. She takes 
aspirin 81 mg daily but no other blood thinners. Unfortunately 
it is her ___ fall this year. She uses a walker at baseline with 
___ 2x/week. 

- In ED initial VS: 97.6 64 170/78 20 
- Exam: Notable for ~3 cm diameter small circular bruise but no 
skin breakage or bleeding, strength exam generally preserved 
- Labs notable for normal WBC, Plt 118, H/H ___, Na 146, Cr 
1.0, VBG 7.44/70 with bicarb 39, lactate 1.4. 
- She underwent CT head noncon and CT C-spine noncon, which did 
not show acute fracture or intracranial process. She had right 
ankle film, which was concerning for a nondisplaced fx of distal 
fifth metatarsal but subsequent dedicated right foot film was 
negative for acute fracture. 
- Patient was given: PO Acetaminophen 1000 mg, IH Albuterol 
0.083% Neb Soln 1 NEB, IH Ipratropium Bromide Neb 1 NEB, PO/NG 
Diltiazem 120 mg, PO/NG Gabapentin 600 mg 

She was placed in observation for ___ management eval in AM. 
However, at 6 AM patient was noted to be hypoxic to the ___ with 
good pleth on nasal cannula without response at 6 L. She was 
mentating well throughout this time. She was placed on facemask 
with improvement to ___. Given acute change in respiratory 
status, she underwent CTA, which no evidence of PE, but did show 
a masslike consolidation with heterogeneous enhancement 
surrounding fiducial 
marker in the left lower lobe, consistent with known metastatic 
disease. 

Notably, she had a prior hospitalization in ___ where she 
required MICU transfer for hypercarbia and increased somnolence, 
which improved with BiPAP and treatment of PNA. 

On arrival to the MICU, patient was breathing comfortably on 2L 
NC. She denied any pain. Her family was at bedside and felt that 
over the last month, she has been intermittently confused. She 
also had been having some difficulty sleeping and having vivid 
dreams. Sometimes she will be forgetful with events but never 
confused to the point of not recognizing her family members. In 
the ER, she was briefly placed on BiPAP which was removed when 
she came to the MICU.

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills. Denies headache
 
Past Medical History:
pAF previously on Coumadin
dCHF
HTN
HLD
___
Prior GIB on Coumadin
Arthritis
Spinal stenosis
Uterine cancer s/p TAH/BSO with metastasis in left lung treated 
with radiation completed ___.
Home O2 since an admission for pneumonia ___ year ago
Knee replacements (left x1, right x3, most recently in ___
cholecystectomy ___
TAH-BSO ___, ___)
hernia repair
surgery for stress incontinence (? sling)
cataract surgeries
 
Social History:
___
Family History:
Brother with DM, ___ on HD  
Sister with breast and colon ca  
Brother with CAD s/p CABG  
Father with CVA
 
Physical Exam:
==================
ADMISSION EXAM
==================
VITALS:  98.2 141/68 81 22 93% 2L
GENERAL: ___, pleasant, no acute distress 
HEENT: Small 3cm circular bruise over left temporal area on 
head, bruise behind left ear extending down neck but no fluid 
collection, nontender to palpation, sclera anicteric, MMM, 
oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Diminished break sounds at bases, crackles left lung 
base, no wheezes, rhonchi 
CV: Regular rate, irregular rhythm, normal S1 S2, no murmurs, 
rubs, gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding 
EXT: Warm, well perfused, no clubbing, cyanosis or edema  
NEURO: Moving all extremities, following basic commands, CN 
II-XII nonfocal, strength preserved throughout

==================
DISCHARGE EXAM
==================
Vitals: T:97.8, BP: 134/79, RR: 20, O2: 93% RA
General: No apparent distress, pleasant, AXOX2-3
HEENT: Small 3cm circular bruise over left temporal area on 
head, bruise behind left ear extending down neck but no fluid 
collection, nontender to palpation, sclera anicteric, MMM, 
oropharynx clear 
Eyes: PERRL, sclera anicteric
Pharynx: no erythema, no exudate 
Lungs: CTAB
Abdomen: soft, NT, NABS, ND
___: no edema, +2 DP pulses
Neuro: CN II-XII grossly intact, ___ strength in ___
Skin: hematoma noted over neck 
 
Pertinent Results:
=============
ADMIT LABS
=============
___ 06:35PM BLOOD WBC-5.4 RBC-3.31* Hgb-10.9* Hct-35.7 
MCV-108* MCH-32.9* MCHC-30.5* RDW-12.5 RDWSD-49.8* Plt ___
___ 06:35PM BLOOD Neuts-77.0* Lymphs-11.2* Monos-9.7 
Eos-1.5 Baso-0.2 Im ___ AbsNeut-4.12# AbsLymp-0.60* 
AbsMono-0.52 AbsEos-0.08 AbsBaso-0.01
___ 06:35PM BLOOD Glucose-96 UreaN-24* Creat-0.8 Na-145 
K-4.2 Cl-93* HCO3-42* AnGap-14
___ 08:53AM BLOOD ALT-8 AST-17 AlkPhos-80 TotBili-0.4
___ 06:35PM BLOOD CK-MB-3 cTropnT-0.08*
___ 08:53AM BLOOD Calcium-10.0 Phos-2.4* Mg-1.7

=============
MICROBIOLOGY
=============
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

=============
IMAGING 
=============
CT C-SPINE W/O CONTRAST ___
1. No acute fracture or dislocation.  Mild multilevel 
degenerative changes. 
2. Scattered areas of lucency throughout the bones without 
cortical destruction may relate to osteopenia.  Correlate with 
any history of malignancy. 

CT HEAD W/O CONTRAST ___
Suboptimal evaluation of the posterior fossa due to artifact 
from patient motion.  Otherwise, no acute intracranial process 
seen. 
  
Posterior left parietal/temporal subgaleal hematoma without 
underlying acute fracture. 

ANKLE (AP, MORTISE & LAT) RIGHT ___
Concern for nondisplaced fracture of the distal fifth 
metatarsal, seen on the lateral view.  Consider dedicated 
imaging of the right foot for further assessment. 
  
No acute fracture or dislocation at the right ankle. 

FOOT AP,LAT & OBL RIGHT ___
No acute fracture or dislocation.  Degenerative changes, most 
severe at the first MTP joint where there is large dorsal 
spurring. 

CXR ___
The lung volumes are markedly low.  Left base opacity is seen 
which could be due worsened chronic atelectasis, however, 
pneumonia, aspiration, underlying pleural effusion or pulmonary 
lesion is not excluded.  Right base atelectasis is stable. The 
cardiac and mediastinal silhouettes are grossly stable. 

CTA CHEST ___
1.  No evidence of pulmonary embolism or aortic abnormality. 
2.  Masslike consolidation with heterogeneous enhancement 
surrounding fiducial marker in the left lower lobe.  Findings 
are similar to the prior examination compatible with known 
metastatic disease. 
3.  Small left pleural effusion and bibasilar atelectasis. 
4.  Mildly enlarged main and right pulmonary arteries, 
compatible with underlying chronic pulmonary hypertension. 

CXR ___
Final Report 
EXAMINATION:  CHEST (PORTABLE AP) 
  
INDICATION:  ___ year old woman with resp distress// eval 
interval change      
eval interval change 
  
IMPRESSION:  
  
Compared to chest radiographs since ___ most recently 
___ 
___. 
  
Lung volumes remain exceedingly low.  Previous pulmonary edema 
has improved.  Residual opacification at the lung bases could be 
atelectasis and edema alone but pneumonia is certainly not 
excluded.  Small pleural effusions are likely.  Heart is not 
enlarged.  No pneumothorax. 

Final Report ___
EXAMINATION:  CT HEAD W/O CONTRAST. 
  
INDICATION:  ___ woman with paroxysmal atrial 
fibrillation, congestive heart failure, uterine cancer with 
recent head strike and altered mental status.  Evaluate for 
enlarging hematoma 
  
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without 
contrast. 
  
DOSE:  Acquisition sequence: 
 1) Stationary Acquisition 5.0 s, 18.8 cm; CTDIvol = 50.0 mGy 
(Head) DLP = 
940.0 mGy-cm. Total DLP (Head) = 940 mGy-cm. 
  
COMPARISON:  CT head without contrast from ___. 
  
FINDINGS:  
  
There is no evidence of acute vascular territorial 
infarction,hemorrhage,edema, or mass.  There is prominence of 
the ventricles and sulci suggestive of involutional changes.  
The previously noted left parietal subgaleal hematoma is 
decreased in size (series 4:image 26). 
  
There is no evidence of fracture.  The visualized portion of the 
paranasal 
sinuses, mastoid air cells, and middle ear cavities are clear.  
Patient is 
status post bilateral lens replacement. 
  
IMPRESSION: 
  
1. No acute intracranial abnormality. 
2. Interval evolution and decrease in size of left parietal 
subgaleal 
hematoma. 
  
___
Final Report 
EXAMINATION:  BILAT LOWER EXT VEINS 
  
INDICATION:  ___ year old woman with history of paroxysmal atrial 
fibrillation, uterine cancer, lung oligometastasis status post 
radiation on chronic home oxygen on 2L requirement.  Evaluate 
for deep vein thrombosis. 
  
TECHNIQUE:  Grey scale, color, and spectral Doppler evaluation 
was performed on the bilateral lower extremity veins. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
There is normal compressibility, flow, and augmentation of the 
bilateral 
common femoral, femoral, and popliteal veins.  The bilateral 
posterior tibial and peroneal calf veins are not well seen. 
  
There is normal respiratory variation in the common femoral 
veins bilaterally. 
  
No evidence of medial popliteal fossa (___) cyst. 
  
IMPRESSION:  
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins, though only limited assessment of the bilateral posterior 
tibial and peroneal calf veins could be obtained. 

ECHO ___
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Regional left 
ventricular systolic function is normal. Global function is 
hyperdynamic (LVEF>75%). There is a mild resting left 
ventricular outflow tract obstruction. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. There is systolic anterior 
motion of the mitral valve leaflets. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal regional and hyperdynamic global systolic function with 
mild resting LVOT gradient. Mild pulmonary artery systolic 
hypertension. 

Compared with the prior study (images reviewed) of ___, a 
mild resting LVOT gradient is now present. 
=============
DISCHARGE LABS
=============

___ 06:00AM BLOOD WBC-6.4 RBC-3.30* Hgb-10.9* Hct-35.4 
MCV-107* MCH-33.0* MCHC-30.8* RDW-13.5 RDWSD-53.6* Plt ___
___ 06:25AM BLOOD WBC-5.6 RBC-3.29* Hgb-10.7* Hct-34.5 
MCV-105* MCH-32.5* MCHC-31.0* RDW-13.1 RDWSD-50.6* Plt ___
___ 07:00AM BLOOD WBC-5.2 RBC-3.26* Hgb-10.8* Hct-34.3 
MCV-105* MCH-33.1* MCHC-31.5* RDW-12.9 RDWSD-50.6* Plt ___
___ 03:00PM BLOOD Neuts-76.4* Lymphs-9.7* Monos-11.6 
Eos-1.9 Baso-0.4 Im ___ AbsNeut-4.04 AbsLymp-0.51* 
AbsMono-0.61 AbsEos-0.10 AbsBaso-0.02
___ 08:53AM BLOOD Neuts-84.5* Lymphs-6.6* Monos-7.8 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-5.00 AbsLymp-0.39* 
AbsMono-0.46 AbsEos-0.02* AbsBaso-0.02
___ 06:35PM BLOOD Neuts-77.0* Lymphs-11.2* Monos-9.7 
Eos-1.5 Baso-0.2 Im ___ AbsNeut-4.12# AbsLymp-0.60* 
AbsMono-0.52 AbsEos-0.08 AbsBaso-0.01
___ 06:00AM BLOOD Plt ___
___ 06:25AM BLOOD Plt ___
___ 07:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-102* UreaN-29* Creat-1.2* Na-145 
K-4.7 Cl-96 HCO3-37* AnGap-17
___ 06:25AM BLOOD Glucose-110* UreaN-23* Creat-1.0 Na-145 
K-4.7 Cl-97 HCO3-40* AnGap-13
___ 07:00AM BLOOD Glucose-104* UreaN-21* Creat-0.9 Na-145 
K-3.7 Cl-95* HCO3-39* AnGap-15
___ 06:00AM BLOOD ALT-12 AST-19 AlkPhos-86 TotBili-0.5
___ 06:25AM BLOOD CK(CPK)-89
___ 03:00PM BLOOD ALT-10 AST-21 LD(LDH)-230 AlkPhos-78 
TotBili-0.4
___ 04:37PM BLOOD CK-MB-4 cTropnT-0.11*
___ 08:53AM BLOOD cTropnT-0.12* proBNP-1425*
___ 06:00AM BLOOD Calcium-9.5 Phos-4.7* Mg-2.1
___ 08:53AM BLOOD VitB12-1708* Folate-10
___ 08:53AM BLOOD TSH-2.6
___ 06:25AM BLOOD ___ pO2-52* pCO2-80* pH-7.37 
calTCO2-48* Base XS-15 Comment-GREEN
___ 07:10AM BLOOD ___ pO2-82* pCO2-74* pH-7.41 
calTCO2-49* Base XS-17 Comment-GREEN TOP
___ 07:35PM BLOOD ___ pO2-44* pCO2-72* pH-7.43 
calTCO2-49* Base XS-18 Intubat-NOT INTUBA Comment-GREEN TOP
___ 05:14PM BLOOD Type-CENTRAL VE pH-7.40
___ 03:13PM BLOOD Type-ART pO2-35* pCO2-89* pH-7.36 
calTCO2-52* Base XS-19
___ 05:37PM BLOOD ___ pO2-30* pCO2-78* pH-7.39 
calTCO2-49* Base XS-17
___ 05:14PM BLOOD Lactate-1.2 Cl-83* calHCO3-48*
___ 05:37PM BLOOD Lactate-2.3*
___ 08:57AM BLOOD Lactate-1.4
___ 06:12AM BLOOD Lactate-1.9
___ 06:25AM BLOOD O2 Sat-81
___ 05:14PM BLOOD O2 Sat-___ y/o ___ female with pAF (not on AC), dCHF with 
daily Lasix use, ___, HTN, HL, OA, spinal stenosis with chronic 
low back pain, uterine cancer with lung oligometastasis s/p 
radiation,  chronic home O2 2L requirement, who presented after 
a fall with headstrike, and was admitted for hypoxia and 
hypercarbia. She initially presented s/p fall. Imaging 
(including head CT, C-spine CT) did not show any significant 
injuries. Initial plan in the ED was for discharge pending ___ 
evaluation, however while in the ED she developed hypoxia 
requiring a facemask. Given the acute change, she underwent CTA 
which did not show evidence of PE. She was admitted to the MICU 
for monitoring. She was initially placed on Bipap in the ER 
which was removed when she came to the MICU. Her hypoxia 
resolved upon admission, and she returned to her baseline 2L o2 
requirement. Her transient hypoxia was attributed to low reserve 
in setting of chronically elevated right hemi-diaphragm and 
prior radiation treatment; imaging did not show an acute 
pulmonary abnormality. Per discussion with her family, given her 
return to baseline, further work-up was not desired. She was 
called out to the floor for further care.
 
While awaiting disposition in the ER she became hypoxemic, 
placed on face mask for O2% in the 60%s. VBG looked stable, with 
chronic compensated hypercarbia and so she was admitted to the 
FICU. These resolved in the ICU without intervention and she has 
been breathing comfortable and stable on her regular home O2 
regimen. 
   
She was transferred from the FICU to the floor. On the floor, 
she became confused and altered which was thought to be related 
to possible hypercarbia related an delirium. She improved during 
the day after her O2 NC was reduced to target O2 sats of 88-92%. 
Pulmonary was consulted during her hospitalization. It was 
discussed that her hypoxemia was likely multifactorial with a 
degree of hypoventilation and shunting through her bibasilar 
consolidations/areas of atelectasis. She also has known HFpEF 
and is predisposed to volume overload. She also has a stable 
moderate pH thus she likely has chronic hypercarbia. It was 
discussed she could consider trial of nocturnal BiPAP providing 
neuromuscular rest during the night and possibly ventilation 
during the day. This will be deferred to the outpatient setting. 
She will need an outpatient sleep study. 
     
# Acute respiratory failure, now resolved
# Chronic respiratory failure related to oligometastases to 
lung,
prior radiation treatment now O2 dependnet.
Acute, transient hypoxemia in the ED with VBG showing 
hypercarbia
with PCO2 of 70 but normal pH. CTA negative for PE and did show
stable mass in LLL from known metastatic disease. No evidence of
acute CHF exacerbation. Low suspicion for PNA. No smoking 
history
and exam not consistent with reactive airways. Potentially acute
aspiration event. Elevated Troponins likely in the setting of
stress related to fall and transient hypoxemia, trending down
without changes in MB or signs or symptoms of NSTEMI. 
- Continued on oral Lasix, on discharge, discharged on Lasix 20 
mg daily, was given 40 mg oral Lasix while hospitalized
- Continue nebs prn 
- Continue home O2 with goal O2 sat 90-92% 
-elevated Co2 on ___ and ___ however chronic and pH
continues to be wnl
-will continue overnight on ___ L NC with goal O2 90-92% and use
shovel mask if needed
-discussed with pulmonary, discussed initiation with ___
overnight, however given patient's overall status improving, 
will
continue on O2 and will have patient have outpatient sleep study
with Bipap titration as outpatient. 
  
#Lung mass:  Communicated with her outpatient provider, Dr. 
___. He believed this was most likely post CyberKnife scar 
tissue formation that was noted on recent CT.  Unless it is 
growing or she is symptomatic he recommended no further workup 
at this time. 

# S/p recent fall with headstrike: 
-CT head noncon showed subgaleal hematoma but no intracranial
process. CT C-spine without acute fracture. No LOC or symptoms 
to
suggest seizure. Repeat CT scan with improving hematoma on ___.
    
# ___ pain: Doppler ___ negative for DVT
-CK wnl

# pAF: 
Chronic, rate-controlled, not anticoagulated  
- Continue aspirin 81 mg, not on other anticoagulation  
- Continue diltiazem 120 mg daily  
   
# ___: 
Chronic, stable, at baseline creatinine at 1.0.  
- Continue to monitor  
  
# Spinal stenosis:  
- Gabapentin 600 mg BID  
- Tylenol prn 
  
# Chronic diastolic heart failure: 
Chronic, stable LVEF >70% on TTE in ___. No evidence of acute
CHF exacerbations, Troponins as above  
- Continue home Lasix 40 mg daily, decreased to 20 mg daily 
given creatinine 1.2 on discharge, increase back to 40 mg daily 
as per clinical exam
- ordered ECHO today given concern for desat and hypoxemia
history
    
# Hyperlipidemia:  
- Continue atorvastatin 10 mg daily 
   
#Insomnia
-Melatonin 1 mg at home, can increase to 2 mg Melatonin at night
if needed

#Dizziness:
-per patient she was feeling dizzy after having bowel movement
which cause her to fall at home. Discussed with PCP, she has
reported this occasionally ___ a year and may have vertigo once
in the past. Patient reports she had decreased appetite one week
prior to admission.

#Macrocytosis and thrombocytopenia: will order SPEP/UPEP, 
pending at discharge; B12/folate, TSH wnl

#Constipation: senna, Colace, miralax, dulcolax prn

==================  
 CORE MEASURES:  
==================    
# Prophylaxis: Subcutaneous heparin  
# Communication: HCP: ___: Daughter
in law Phone number: ___ Cell phone: ___  
# Code: DNAR/DNI (MOLST)  
# Disposition: rehab 

Transitional issues:
-Follow-up with ___ after discharge to sleep study 
and nocturnal BiPAP
-sleep as upright as possible to assist with any component of 
diaphragmatic dysfunction that might exist
-increase Lasix to 40 mg daily from 20 mg daily based on 
clinical exam
-TTE final read pending at discharge
-continue O2 sat target 88-92%, if desat below, can use 
ventimask
-Follow-up repeat CT head for resolution of hematoma
-Repeat CBC, chemistries on ___ 
-Repeat CXR in one month 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Cyanocobalamin 500 mcg PO EVERY OTHER DAY 
5. Diltiazem Extended-Release 120 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 600 mg PO BID 
8. Polyethylene Glycol 17 g PO DAILY:PRN constip 
9. Ranitidine 150 mg PO DAILY:PRN GERD 
10. Senna 8.6 mg PO BID:PRN constip 
11. Vitamin D 1000 UNIT PO DAILY 
12. Furosemide 40 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Hypoxia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted for hypoxia. You were found to have a left 
parietal subgaleal hematoma from your fall. You were evaluated 
by pulmonary while hospitalized and will need an outpatient 
sleep study for possible initiation of BiPAP as an outpatient. 

We wish you all the best in your recovery.

Your ___ team
 
Followup Instructions:
___